US05747421
A1) N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-5-formylamino-2-methoxycarbonylbenzenesulfonamide (Table 1, Ex. 1)
1.00 g of 5-formylamino-2-ethoxycarbonylbenzenesulfonamide, 1.11 g of 4,6-dimethoxy-2-phenoxycarbonylaminopyrimidine and 0.82 ml of DBU in acetonitrile are reacted analogously to Chemical Example A.1; Yield: 1.00 g, M.p.: 113° to 118° C. (dec.), Mass spectrum (CI):(M+l) =454

reactant | 5-formylamino-2-ethoxycarbonylbenzenesulfonamide | 1.00 g | C(=O)NC=1C=CC(=C(C1)S(=O)(=O)N)C(=O)OCC | C10H12N2O5S
reactant | 4,6-dimethoxy-2-phenoxycarbonylaminopyrimidine | 1.11 g | COC1=NC(=NC(=C1)OC)NC(=O)OC1=CC=CC=C1 | C13H13N3O4
reactant | DBU | 0.82 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-5-formylamino-2-methoxycarbonylbenzenesulfonamide | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC(=C1)NC=O)C(=O)OC | C16H17N5O8S
